US07807709B2
A. (3S*,4R*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isobutylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared as described above for Example 9/step F (Scheme 5) from (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester and isobutylamine. MS (LC-MS): 401.1 [M+H]+; tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 3.70 min.

reactant | (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)C(O[SiH2]C(C)(C)C)(C)C | C17H33NO4Si
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | (3S*,4R*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isobutylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNCC(C)C)C(O[SiH2]C(C)(C)C)(C)C | C21H44N2O3Si
